US09060986B2
Nicardipine (free base) was prepared by mixing nicardipine-HCl (Sigma-Aldrich, St. Louis, USA) with water and ethylacetate, then adding 2M NaOH, separating the ethylacetate phase and evaporating the ethylacetate, yielding amorphous nicardipine base as a yellow oily-tough substance. Crystalline nicardipine base was prepared by mixing amorphous nicardipine base and isopropanole/diisopropyl ether, adding seed crystals and cooling on an ice bath over night to allow crystallization. The formed crystals were separated by filtration, washed and dried.

reactant | nicardipine HCl | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC.Cl
reactant | water | O | H2O
reactant | NaOH | 2M | [OH-].[Na+]
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | nicardipine | CC1=C(C(C(=C(N1)C)C(=O)OCCN(C)CC=2C=CC=CC2)C=3C=CC=C(C3)[N+](=O)[O-])C(=O)OC | C26H29N3O6
